US04264510
11.21 g (79 mmol) of methyl iodide were added dropwise under nitrogen to a mixture of 2 g (7.9 mmol) of 1,2,3,4,8a,9,10,10a-octahydro-2,3-dimethylene-1,4-epoxy-anthracene-5,8-dione, 10.9 g (79 mmol) of dried potassium carbonate and 100 ml of anhydrous acetone. The mixture was heated to 80° C. for 15 hours, filtered, the filtrate was concentrated, the residue was taken up in 80 ml of chloroform and the solution was washed with three 40 ml portions of water. After drying over magnesium sulphate, concentration and recrystallisation from diethyl ether/tetrahydrofuran/methylene chloride (4:1:2), there were obtained 2.05 g (92%) of 1,2,3,4,9,10-hexahydro-5,8-dimethoxy-2,3-dimethylene-1,4-epoxyanthracene of melting point 177°-178° C. in the form of white crystals.

reactant | methyl iodide | 79 mmol, 11.21 g | CI | CH3I
reactant | 1,2,3,4,8a,9,10,10a-octahydro-2,3-dimethylene-1,4-epoxy-anthracene-5,8-dione | 7.9 mmol, 2 g | C=C1C2C=3CC4C(C=CC(C4CC3C(C1=C)O2)=O)=O | C16H14O3
reactant | potassium carbonate | 79 mmol, 10.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
product | 1,2,3,4,9,10-hexahydro-5,8-dimethoxy-2,3-dimethylene-1,4-epoxyanthracene | 2.05 g, 92% | COC1=C2CC=3C4C(C(C(C3CC2=C(C=C1)OC)O4)=C)=C | C18H18O3
